US07595397B2
2-Benzyl-4-(2′-trifluoromethyl-biphenyl-4-ylmethyl)-piperazine-1-carboxylic acid phenylamide
The above compound was made in the following manner: 100 mg of 3-benzyl-1-(2′-trifluoromethyl-biphenyl-4-ylmethyl)-piperazine dissolved in dichloromethane, 1.1 equiv. methylisocyanate added. The reaction was shaken at room temperature overnight. The reaction was concentrated in vacuo. The residue was diluted with DCM, washed with 1M aqueous sodium hydroxide solution, then dried over sodium sulfate, filtered and concentrated in vacuo. The crude product was identified by ES MS(+) (m/z 530).

reactant | 3-benzyl-1-(2′-trifluoromethyl-biphenyl-4-ylmethyl)-piperazine | 100 mg | C(C1=CC=CC=C1)C1CN(CCN1)CC1=CC=C(C=C1)C1=C(C=CC=C1)C(F)(F)F | C25H25F3N2
reactant | methylisocyanate | 1.1 equiv. | CN=C=O | C2H3NO
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-Benzyl-4-(2′-trifluoromethyl-biphenyl-4-ylmethyl)-piperazine-1-carboxylic acid phenylamide | C1(=CC=CC=C1)NC(=O)N1C(CN(CC1)CC1=CC=C(C=C1)C1=C(C=CC=C1)C(F)(F)F)CC1=CC=CC=C1 | C32H30F3N3O
